US05264573
Preparation of high purity 2-chlorohypoxanthine (I)
The pH of a suspension of sodium 2-chloro-hypoxanthine hydrate in water is adjusted to a value in the range of 6.5, using acid, preferably an inorganic acid and more especially dilute hydrochloric acid. The suspension is then heated to a temperature in the range from 55° C. to 65° C., preferably 60° C.

reactant | sodium 2-chloro-hypoxanthine hydrate | O.ClC=1NC(C=2NC=NC2N1)=O.[Na]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
product | 2-chlorohypoxanthine | ClC=1NC(C=2NC=NC2N1)=O | C5H3ClN4O
